* Copyright © Linear Technology Corp. 2004.  All rights reserved.
*
.subckt LT1129-3.3 1 2 3 4 5
Q1 N009 N001 5 0 PN
Q2 N001 N002 3 0 NA
Q3 N002 N003 N006 0 NP temp=27
C1 N002 N003 20p Rser=200K
Q4 N003 N003 N005 0 NP 10 temp=27
R2 N005 3 2K
R3 N006 3 2.4K
C2 1 N003 20p Rser=2K
Q5 1 2 N007 0 FB temp=27
R6 N007 N005 80.9K
I1 5 4 6µ load
G2 5 N003 N008 3 7µ
G1 5 N002 N008 3 7µ
R1 5 N001 37K
R8 N009 1 .23
A2 N010 0 N002 N002 N002 N002 3 N002 VARISTOR
D3 0 N010 F
G3 0 N010 1 N009 10m
Q7 N003 N001 N009 0 P 1m
D1 5 1 X
C5 1 3 10p
C7 5 3 10p
G5 N010 0 N008 3 table(0 3m 1 0)
A1 4 3 3 3 3 3 N008 3 SCHMITT Vt=.95 Vh=1m trise=2m
D2 4 3 A
D4 3 4 B
I2 0 N010 3m
C4 5 N002 5p Rser=.4G
C6 2 3 1p
C8 5 N003 500p Rser=.27G Rpar=3G
.model PN PNP(BF=25 Cje=500p Cjc=500p tf=100n)
.model NA NPN(BF=1Meg Cje=1p Cjc=1p Re=10)
.model NP NPN(Cje=5p Cjc=5p BF=150)
.model FB NPN(Cje=5p Cjc=5p BF=200)
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=30)
.model A D(Ron=110 Vfwd=6.6)
.model B D(Ron=2 Vrev=7.5 Vfwd=.6)
.ends LT1129-3.3
*
.subckt LT1129-5 1 2 3 4 5
Q1 N009 N001 5 0 PN
Q2 N001 N002 3 0 NA
Q3 N002 N003 N006 0 NP temp=27
C1 N002 N003 20p Rser=200K
Q4 N003 N003 N005 0 NP 10 temp=27
R2 N005 3 2K
R3 N006 3 2.4K
C2 1 N003 20p Rser=2K
Q5 1 2 N007 0 FB temp=27
R6 N007 N005 135.1K
I1 5 4 6µ load
G2 5 N003 N008 3 7µ
G1 5 N002 N008 3 7µ
R1 5 N001 37K
R8 N009 1 .23
A2 N010 0 N002 N002 N002 N002 3 N002 VARISTOR
D3 0 N010 F
G3 0 N010 1 N009 10m
Q7 N003 N001 N009 0 P 1m
D1 5 1 X
C5 1 3 10p
C7 5 3 10p
G5 N010 0 N008 3 table(0 3m 1 0)
A1 4 3 3 3 3 3 N008 3 SCHMITT Vt=.95 Vh=1m trise=2m
D2 4 3 A
D4 3 4 B
I2 0 N010 3m
C4 5 N002 5p Rser=.4G
C6 2 3 1p
C8 5 N003 500p Rser=.27G Rpar=3G
.model PN PNP(BF=25 Cje=500p Cjc=500p tf=100n)
.model NA NPN(BF=1Meg Cje=1p Cjc=1p Re=10)
.model NP NPN(Cje=5p Cjc=5p BF=150)
.model FB NPN(Cje=5p Cjc=5p BF=200)
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=30)
.model A D(Ron=110 Vfwd=6.6)
.model B D(Ron=2 Vrev=7.5 Vfwd=.6)
.ends LT1129-5
*
.subckt LT1129 1 2 3 4 5
Q1 N009 N001 5 0 PN
Q2 N001 N002 3 0 NA
Q3 N002 N003 N006 0 NP temp=27
C1 N002 N003 20p Rser=200K
Q4 N003 N003 N005 0 NP 10 temp=27
R2 N005 3 2K
R3 N006 3 2.4K
C2 1 N003 20p Rser=2K
Q5 1 2 N007 0 FB temp=27
R6 N007 N005 95.2K
I1 5 4 6µ load
G2 5 N003 N008 3 7µ
G1 5 N002 N008 3 7µ
R1 5 N001 37K
R8 N009 1 .23
A2 N010 0 N002 N002 N002 N002 3 N002 VARISTOR
D3 0 N010 F
G3 0 N010 1 N009 10m
Q7 N003 N001 N009 0 P 1m
D1 5 1 X
C5 1 3 10p
C7 5 3 10p
G5 N010 0 N008 3 table(0 3m 1 0)
A1 4 3 3 3 3 3 N008 3 SCHMITT Vt=.95 Vh=1m trise=2m
D2 4 3 A
D4 3 4 B
I2 0 N010 3m
C4 5 N002 5p Rser=.4G
C6 2 3 1p
C8 5 N003 500p Rser=.27G Rpar=3G
.model PN PNP(BF=25 Cje=500p Cjc=500p tf=100n)
.model NA NPN(BF=1Meg Cje=1p Cjc=1p Re=10)
.model NP NPN(Cje=5p Cjc=5p BF=150)
.model FB NPN(Cje=5p Cjc=5p BF=200)
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=30)
.model A D(Ron=110 Vfwd=6.6)
.model B D(Ron=2 Vrev=7.5 Vfwd=.6)
.ends LT1129
